US04209621
7-(m-Methoxyphenyl)-1,2,4-triazolo[1,5-a]pyrimidine
A mixture of 2.54 g. of 3-amino-1,2,4-triazole and 6.15 g. of 3-dimethylamino-3'-methoxyacrylophenone in 25 ml. of glacial acetic acid is refluxed for 6 hours. The resulting mixture is worked up as described in Example 54 to give the product of the Example, m.p. 163°-165° C.

reactant | 3-amino-1,2,4-triazole | NC1=NNC=N1 | C2H4N4
reactant | 3-dimethylamino-3'-methoxyacrylophenone | CN(C=CC(=O)C1=CC(=CC=C1)OC)C | C12H15NO2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 7-(m-Methoxyphenyl)-1,2,4-triazolo[1,5-a]pyrimidine | COC=1C=C(C=CC1)C1=CC=NC=2N1N=CN2 | C12H10N4O
